US08609696B2
A stirred solution of methyl 2,3′-bipyridine-6′-carboxylate (0.103 g, 0.48 mmol) in 5M aqueous HCl (2.5 mL) is heated at 80° C. for 2 h. The reaction is concentrated under reduced pressure and azeotroped with MeOH to give crude 2,3′-bipyridine-6′-carboxylic acid dihydrochloride which is used in the next step without further purification. m/z=201 [M++H].

reactant | methyl 2,3′-bipyridine-6′-carboxylate | 0.48 mmol, 0.103 g | N1=C(C=CC=C1)C=1C=NC(=CC1)C(=O)OC | C12H10N2O2
reactant | HCl | 5M, 2.5 mL | Cl | ClH
product | 2,3′-bipyridine-6′-carboxylic acid dihydrochloride | Cl.Cl.N1=C(C=CC=C1)C=1C=NC(=CC1)C(=O)O | InChI=1S/C11H8N2O2.2ClH/c14-11(15)10-5-4-8(7-13-10)9-3-1-2-6-12-9;;/h1-7H,(H,14,15);2*1H
